data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2936,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=CC=C1.CC1=CCC(C2=C(OCC3=CC=CC=C3)C=CC(Cl)=C2)([OH:1])N1C1=CC(S(N)(=O)=O)=CC=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3584,"CN(C)[C:1]([CH:2](C(=O)CC1=CC=CC=C1)[H:3])=[O:4].[NH2-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8371,"[CH:1](=[O:2])[SH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9115,"C[CH:1]=[C:2](C)[OH:3].[Br:4][Br:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5913,"CC(=O)O.CC1=CC=C(S(=O)(=O)[O:1][CH2:2]CC2C[CH:3]=[CH:4]C2)C=C1|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8790,"CN[CH:1]([N:2](C)C)[OH+:3]C.[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3595,"CC(C)(C)C[OH:1].CCOC(=O)NN(C(=O)OCC)[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C1CCC(C(=O)[O-])CC1|(1, 2)"
train,pmechdb_split_0,0,2275,"[Cl][Al-]([Cl])([Cl])[Br+:1][CH2:2]C1=CC=CC=C1|((2, 1), 1)"
train,pmechdb_split_0,0,754,"CC1=CC[C:1](C)([OH:2])[N:3]1CC1=CC=CO1.NCC1=CC=CO1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4440,"O=C(Cl)O[C+:1]1C=C[C:2](C(=O)OC2=CC=CC=C2)([H:3])[CH:4]=[CH:5]1.[Cl][Al-]([Cl])([Cl])[Cl:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,2207,"CCC(C1CCCCC1)[NH:1]CC.CCCC[C:2](C(CCC1CCCC1)CC(C)C)=[O:3].CC[NH2+]C(CC)C1CCCCC1.[BH3-]C#N.[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4423,"CCOC(=O)CCC(C)=[N+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5001,"C=C[C:1](C1=CC=CC=C1)([O:2]C(C)=O)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7204,"CC(C)(C)[O-:1].COC1=C2OC3C45CCN(C6=CC=CC=C6)C(CC(=C24)C=C1)C5[CH:2]([H:3])[CH:4]([Br:5])C3(OC)OC.CS(C)=O.[K+]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8234,"CC1=[N:1]C2=C(C=CC=C2)N1.O=C(C1=CC=CC=C1)[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5397,"CC(=CC[C:1](C1=CC=CC=C1)=[O:2])[NH:3]C1CCCCC1N.CC(=O)O.CO.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4437,"CCC[CH:1]=[C:2](C1=C(O)C=CC(Br)=C1)[OH:3].O=C([O-])C(F)(F)F.O=[N+]([O-])C1=CC=C(C=[N+]2CCCC2C2=NN=NN2)C=C1.[H:4][OH:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9012,"CCCC.CC[C:1](N1C(=O)OCC1CC1=CC=CC=C1)([O-:2])[Cl:3].[Li+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5461,"CC12CCC(O)CC1CCC1C2CCC2(C)C1CCC2(OCCO)[OH:1].CS(=O)(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3125,"CC(O)CC(C[CH2:1][OH2+:2])C1([S:3]C2=CC=CC=C2)CCOCC1.CC1=CC=C(S(=O)(=O)[O-])C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5717,"CC(C=O)=CCCC(C)C[CH:1]=[O:2].C[NH:3]C1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8511,"CCOC(=O)NN=C(O)OCC.CCOC(=O)NNC(=O)OCC.CN1C(=O)N(CCCC[CH:1](C)[O:2][P+:3](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)C2=C1N=CN2CC1=CC=CC=C1.O=C(C1=CC=C([N+](=O)[O-])C=C1)[O-:4]|(4, 1);((1, 2), 3)"
train,pmechdb_split_0,0,1474,"CC(C(C)[O:1][H:2])[Si](C)(C)C.[H:3][K:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7793,"CC1=C[CH+:1][C:2]([N+](=O)[O-])([H:3])C=C1.O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,6012,"CC(=O)O[C:1](C)([OH:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2391,"CC([Si](C)(C)C)=[C:1]=[CH2:2].CC1CCC[C:3](=[O+:4][Ti-]([Cl])([Cl])([Cl])[Cl])[CH:5]=[CH:6]1|((1, 2), 6);((6, 5), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7307,"COC(=O)C1CC[C:1]([OH2+:2])([O:3]CCO)CC1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4023,"C[Si:1](C)(C)C[CH+]CC1([O][Ti-]([Cl])([Cl])([Cl])[Cl])C=CCCC1.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,4602,"CC(C)(C)[Si:1](C)(C)C.C[O:2]C|(2, 1)"
train,pmechdb_split_0,0,7910,"CN1C2=CC=C(OC(O)[O+:1](C)[H:2])C=C2C2=C1C=CC=C2.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8295,"CC(=O)[O:1][H:2].O=C1NC2=C(C(C(F)(F)F)=CC=C2)C1(NC1=CC(C(F)(F)F)=CC=C1)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1493,"CC[C:1](C)=[C:2](C)CC.[H:3][OH2+:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4484,"C[S:1][S:2]C.[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9173,"COC(=[O+][Li-][NH+](C(C)C)C(C)C)C(CC12C3NC4C(CCC45CCCC51)C2(C)CCC3C(C)C)[C:1](C1(C)COC2(C)CCC1O2)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7906,"C=CCC(C1=CC=CC=C1)[O:1][Zn-]([Cl])[Cl].C[CH2][Sn:2]([Cl])([CH2]C)[CH2]C|(1, 2)"
train,pmechdb_split_0,0,5504,"CCC(CC)(C(C)C)[NH2:1].[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2589,"CCO.CCOP(=O)(OCC)C(C)C(=O)CC1CCC[C:1]1([OH:2])[OH+:3]CCO.O.[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8048,"CCOC(=O)C(=O)[CH:1]=[C:2](C(C)=C(O)[C:3](OCC)=[O:4])[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7614,"CC(C)[N-:1]C(C)C.O=C(C=C(O)CC1=CC=CC=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2670,"CO[P:1](I)OC.C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1864,"CC1(C2=CC=CC=C2)CCCC[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7764,"C=CC1=C2C(=CC=C1)N(C(=O)C1=CC=CC=C1)CC2C(=O)N(C)C(=O)[C:1](N=N[N-:2]S(C)(=O)=O)([H:3])[C:4](OC)=[O:5].CC[NH+](CC)CC|(2, 3);((3, 1), 4);((4, 5), 5)"
